US09062070B2
Step E: tert-butyl (9aS)-3-(3-cyano-4-fluoro-2-methylphenyl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate
tert-Butyl (3S)-4-[2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate (18.5 g, 47.0 mmol) and cyanomethylenetri-n-butylphosphorane (20.4 g, 85.0 mmol) were dissolved in 180 mL of benzene. The reaction mixture was degassed and heated to 100° C. for 16 h. LC-MS analysis indicated product peak (M+1=376). The reaction was cooled and evaporated to dryness. The residue was purified by chromatography through a 330 g Redi-sep column, eluting with a 20% acetone/80% hexane mixture to yield a cis-trans mixture of the title compound.

reactant | tert-Butyl (3S)-4-[2-(3-cyano-4-fluoro-2-methylphenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate | 47.0 mmol, 18.5 g | C(#N)C=1C(=C(C=CC1F)C(CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO)O)C | C20H28FN3O4
reactant | cyanomethylenetri-n-butylphosphorane | 85.0 mmol, 20.4 g | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | benzene | 180 mL | C1=CC=CC=C1 | C6H6
product | tert-butyl (9aS)-3-(3-cyano-4-fluoro-2-methylphenyl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate | C(#N)C=1C(=C(C=CC1F)C1CN2[C@H](CO1)CN(CC2)C(=O)OC(C)(C)C)C | C20H26FN3O3
